US06175007B1
2,4-Dichloro-5-isocyanatobenzaldehyde (O-ethyl)oxime
65.3 g (0.28 mol) of 5-amino-2,4-dichlorobenzaldehyde (O-ethyl)-oxime (obtainable by the process given for precursors 28.1-28.3) and 60.9 g (0.31 mol) of diphosgene were reacted in the manner described for precursor 3.1. Yield: 72.9 g.

reactant | 5-amino-2,4-dichlorobenzaldehyde (O-ethyl)-oxime | 0.28 mol, 65.3 g | C(C)ON=CC1=C(C=C(C(=C1)N)Cl)Cl | C9H10Cl2N2O
reactant | diphosgene | 0.31 mol, 60.9 g | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
product | 2,4-Dichloro-5-isocyanatobenzaldehyde (O-ethyl)oxime | C(C)ON=CC1=C(C=C(C(=C1)N=C=O)Cl)Cl | C10H8Cl2N2O2
